US06903114B2
(a) 4-(6,7-Dimethoxy-naphthalen-2-yl)-4-oxo-butyric Acid
Aluminium chloride (9.5 g) was added to a solution of 2,3-dimethoxynaphthalene (10 g) and succinic anhydride 7.1 g in methylene chloride (140 ml). The mixture was stirred at room temperature overnight and then treated with water and filtered. The resulting solid was taken into 1 M sodium hydroxide, washed once with methylene chloride, acidified and filtered. Yield: 8.3 g, melting point 215-229° C.

reactant | Aluminium chloride | 9.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,3-dimethoxynaphthalene | 10 g | COC1=CC2=CC=CC=C2C=C1OC | C12H12O2
reactant | succinic anhydride | 7.1 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | water | O | H2O
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
product | 4-(6,7-Dimethoxy-naphthalen-2-yl)-4-oxo-butyric Acid | COC=1C=C2C=CC(=CC2=CC1OC)C(CCC(=O)O)=O | C16H16O5
